US06492550B2
Methyl 4-(3-tert-Butoxycarbonylphenyl)butanoate
A mixture of tert-butyl 3-iodobenzoate (2 g, 6.58 mmol) and tetrakis(triphenylphosphine)palladium(0) (250 mg, 0.329 mmol) in THF (10 ml) was treated with a freshly prepared 3-methoxycarbonylpropylzinc iodide (0.25 M in THF, 27 ml, 6.58 mmol). The mixture was stirred at room temperature for 3 hours, quenched with saturated aqueous ammonium chloride (5 ml) and extracted with diethyl ether. The organic phase was washed with saturated aqueous ammonium chloride, brine, dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane:ethyl acetate=9:1) to give the title material (0.73 g, 40%) as a colorless oil.

reactant | tert-butyl 3-iodobenzoate | 6.58 mmol, 2 g | IC=1C=C(C(=O)OC(C)(C)C)C=CC1 | C11H13IO2
reactant | 3-methoxycarbonylpropylzinc iodide | 6.58 mmol, 0.25 M, 27 ml | [I-].COC(=O)CCC[Zn+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.329 mmol, 250 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Methyl 4-(3-tert-Butoxycarbonylphenyl)butanoate | 0.73 g, 40% | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)CCCC(=O)OC | C16H22O4
